US04209612
The crude powders are then subjected to silica gel column chromatography using a mixed solvent of chloroform, ethanol, aqueous ammonia and acetone (2:2:1:2, by volume) as a developer. The crude powder containing Fortimicin factors B, KE and KG is suspended in the solvent and introduced into the column. Development is carried out with the same solvent at a flow rate of about 30 ml/hour. First, Fortimicin B and Fortimicin KE are eluted and then Fortimicin KG is eluted. The active fractions containing Fortimicin KG are collected and concentrated under reduced pressure. The concentrate is freeze-dried to obtain the free base of Fortimicin KG.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethanol | C(C)O | C2H6O
reactant | ammonia | N | H3N
reactant | Fortimicin | C[C@@H](C1CCC[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@@H]([C@H]([C@H]2O)N(C)C(=O)CN)OC)O)N)N | C17H34N4O6
solvent | acetone | CC(=O)C | C3H6O
product | Fortimicin KG | C[C@@H](C1=CC[C@H]([C@H](O1)O[C@@H]2[C@H]([C@@H]([C@@H]([C@H]([C@H]2O)NC)OC)O)N)N)N | C15H30N4O5
